US06673804B1
(1) (±)-N-(4-Methoxybenzenesulfonyl)-2-(2-phthalimidoethyl)glycine Methyl Ester
After addition of trimethylsilyl chloride (0.65 g, 5.1 mmol) to a solution of (±)-N-(4-methoxybenzensulfonyl)-2-(2-phthalimidoethyl)glycine (1.08 g, 2.6 mmol), the product of Example 21, in a mixture of methanol (10 ml) and tetrahydrofuran (10 ml), the mixture was heated under reflux for 2 hours. The solvent of the reaction mixture was evaporated under reduced pressure. To the residue, a saturated aqueous solution of sodium hydrogencarbonate was added and this was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane was added to the residue for caking to afford the desired compound (yield 96%) as a white powder.

reactant | trimethylsilyl chloride | 5.1 mmol, 0.65 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | (±)-N-(4-methoxybenzensulfonyl)-2-(2-phthalimidoethyl)glycine | 2.6 mmol, 1.08 g | COC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCN1C(C=2C(C1=O)=CC=CC2)=O | C19H18N2O7S
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (±)-N-(4-Methoxybenzenesulfonyl)-2-(2-phthalimidoethyl)glycine Methyl Ester | yield 96% | COC(C(NS(=O)(=O)C1=CC=C(C=C1)OC)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C20H20N2O7S
